US03963706
c. 1-Phenyl-3-(3-trifluormethyl-4-sulphamoylphenyl)-imidazolidin-4-one
2-Phenylamino-N-(3-trifluoromethyl-4-sulphamoylphenyl)-acetamide (11.2g) was added to ethanol (200 ml) and paraformaldehyde (1.3g) in water (400 ml) added thereto under reflux. The mixture was refluxed 11/2 hr, cooled and worked up as in Example 6(c) to yield 11,8 g, m.p. 235°-238°.

reactant | 2-Phenylamino-N-(3-trifluoromethyl-4-sulphamoylphenyl)-acetamide | 11.2g | C1(=CC=CC=C1)NCC(=O)NC1=CC(=C(C=C1)S(N)(=O)=O)C(F)(F)F | C15H14F3N3O3S
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | paraformaldehyde | 1.3g | C=O | CH2O
solvent | water | 400 ml | O | H2O
product | 1-Phenyl-3-(3-trifluormethyl-4-sulphamoylphenyl)-imidazolidin-4-one | C1(=CC=CC=C1)N1CN(C(C1)=O)C1=CC(=C(C=C1)S(N)(=O)=O)C(F)(F)F | C16H14F3N3O3S
